US06914074B2
8-Fluoro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 8-fluoro-6-(4-methoxyphenyl)-2-naphthol (0.10 g, 0.37 mmol) with boron tribromide (0.56 mL of 1N solution, 0.56 mmol) according to method D to yield 0.10 g (quantitative) of a white solid: mp 236-238° C.; 1H NMR (DMSO-d6): δ 6.87 (2H, d, J=8.57 Hz), 7.14-7.18 (2H, m), 7.52 (1H, dd, J=1.18 Hz, J=12.78 Hz), 7.61 (2H, d, J=8.59 Hz, 7.86-7.89 (2H, m), 9.61 (1H, bs), 10.05 (1H, bs); MS (ESI) m/z253 (M−H)−.

reactant | 8-fluoro-6-(4-methoxyphenyl)-2-naphthol | 0.37 mmol, 0.10 g | FC=1C=C(C=C2C=CC(=CC12)O)C1=CC=C(C=C1)OC | C17H13FO2
reactant | boron tribromide | 0.56 mmol, 1N, 0.56 mL | B(Br)(Br)Br | BBr3
product | 8-Fluoro-6-(4-hydroxyphenyl)-2-naphthol | FC=1C=C(C=C2C=CC(=CC12)O)C1=CC=C(C=C1)O | C16H11FO2
